US05493030
A solution of of ethyl (E) 6-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-(3-bromopropyl)-4-methylhex-4-enoate (1.62 g) was dissolved in THF (25 ml), cooled to 0° C., and a solution of tetrabutylammonium fluoride trihydrate (919 mg) in THF (5 ml) was added. The reaction was stirred for 15 min, diluted with ether, washed water (2X), brine, and dried. The solvent was evaporated, and the resulting oil chromatographed on silica gel (15%-20% ethyl acetate in hexanes) to give ethyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy7-methyl-3-oxoisobenzofuran-5-yl)-3-(3-bromopropyl)-4-methylhex-4-enoate (810 mg).

reactant | ethyl (E) 6-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-3-(3-bromopropyl)-4-methylhex-4-enoate | 1.62 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1C/C=C(/C(CC(=O)OCC)CCCBr)\C)OC)C)=O | C28H43BrO6Si
reactant | tetrabutylammonium fluoride trihydrate | 919 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | ethyl (E) 6-(1,3-dihydro-4-hydroxy-6-methoxy7-methyl-3-oxoisobenzofuran-5-yl)-3-(3-bromopropyl)-4-methylhex-4-enoate | 810 mg | OC1=C2C(OCC2=C(C(=C1C/C=C(/C(CC(=O)OCC)CCCBr)\C)OC)C)=O | C22H29BrO6
